US07615562B2
Step C: {4-[4-(3-Amino-butyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared from {4-[4-(3-azido-butyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine by hydrogenation using PtO2 in MeOH. Yield: 39 mg (87%).

reactant | {4-[4-(3-azido-butyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | N(=[N+]=[N-])C(CCC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)C | C23H33N7
solvent | MeOH | CO | CH4O
catalyst | PtO2 | O=[Pt]=O
product | {4-[4-(3-Amino-butyl)-phenyl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | NC(CCC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C)C | C23H35N5
